US07115611B2
To a solution of 146 mg (0.268 mmol) [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester in 2 ml dichloromethane was added 0.5 ml trifluoroacetic acid. The reaction mixture was stirred for 4 h and then the trifluoroacetic acid was removed under reduced pressure. The crude product was suspended in AcOEt/heptane 1:19. The resulting crystalline product was filtered off to give 118 mg of pure [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid.

reactant | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester | 0.268 mmol, 146 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C29H31F3N2O3S
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid | 118 mg | C1(CC1)C1=NC(=NC=C1C(C)SC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C25H23F3N2O3S
